* Z:\Users\kendrickwiersma\Dropbox\Sr. Design Project\E-Meter\Simulations\Voltage_Shunt_Sim\Voltage_Shunt_Simulation.asc
R1 N002 N001 330k
R2 N003 N002 330k
R3 N004 N003 330k
R4 0 N004 1.5k
R5 N004 N005 100
R6 N006 0 1k
C1 N005 0 47p
C2 0 N006 47p
C3 N005 N006 15n
V1 N001 0 SINE(0 120 60 0 0 0)
.tran 0.2
.backanno
.end
